US06420418B1
2-(3,5-Dimethoxyphenyl)-2-tetrahydrofuroic acid was prepared according to the procedures described in Reference Example 27 substituting 3,5-dimethoxymandelic acid, methyl ester for 4-methoxymandelic acid, methyl ester in Step A.

reactant | 3,5-dimethoxymandelic acid, methyl ester | COC=1C=C(C(C(=O)OC)O)C=C(C1)OC | C11H14O5
reactant | 4-methoxymandelic acid, methyl ester | COC1=CC=C(C(C(=O)OC)O)C=C1 | C10H12O4
product | 2-(3,5-Dimethoxyphenyl)-2-tetrahydrofuroic acid | COC=1C=C(C=C(C1)OC)C1(OCCC1)C(=O)O | C13H16O5
